US07759337B2
Synthesis of 4-methyl-3-(1-morpholinophthalazin-6-yl)benzamide
4-Methyl-3-(1-morpholinophthalazin-6-yl)benzoic acid (86 mg, 0.25 mmol) was dissolved in thionyl chloride (3.6 mL) and heated to 70° C. for 2 h. The reaction mixture was concentrated in vacuo before ammonia, 0.5 M in 1,4-dioxane (10 mL, 4.9 mmol) and diisopropylethylamine (0.2 mL, 1.2 mmol) were added. The reaction mixture was heated to 50° C. for 5 h and stirred overnight at RT. The reaction was diluted with 100 mL of EtOAc, added to an addition funnel and partitioned with sodium bicarbonate (saturated, aqueous). The organic layers were washed 3 times 75 mL of sodium bicarbonate (saturated, aqueous), combined, dried over sodium sulfate, and concentrated via rotovap to give a crude product. The crude was purified by chromatography to obtain the title compound. Found MS (ES+): 349(M+H)+.

reactant | 4-Methyl-3-(1-morpholinophthalazin-6-yl)benzoic acid | 0.25 mmol, 86 mg | CC1=C(C=C(C(=O)O)C=C1)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C20H19N3O3
reactant | ammonia | N | H3N
reactant | 1,4-dioxane | 4.9 mmol, 10 mL | O1CCOCC1 | C4H8O2
reactant | diisopropylethylamine | 1.2 mmol, 0.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | thionyl chloride | 3.6 mL | S(=O)(Cl)Cl | Cl2OS
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-methyl-3-(1-morpholinophthalazin-6-yl)benzamide | CC1=C(C=C(C(=O)N)C=C1)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C20H20N4O2
